US08383821B2
4-(((2′,3′-Difluoro-4′-methoxy-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine.
tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (150 mg, 0.28 mmol), 2,3-difluoro-4-methoxyphenylboronic acid (139 mg, 0.84 mmol), and tetrakis(triphenylphosphine) palladium(0) (33 mg, 0.03 mmol) were combined in dry tetrahydrofuran (3 mL) in a microwave tube and sealed. After flushing with nitrogen, 1.0 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol and concentrated to afford 45 mg (33%). 1H-NMR (CDCl3, 500 MHz) δ 7.57 (s, 1H), 7.26-7.38 (m, 6H), 7.13-7.17 (m, 1H), 7.00-7.06 (m, 1H), 6.77-6.83 (m, 1H), 4.41 (s, 2H), 3.93 (s, 3H), 3.44 (s, 2H), 2.84-2.92 (m, 2H), 2.68-2.77 (m, 2H), 2.13-2.18 (m, 2H), 1.83-1.92 (m, 2H). Mass spec.: 492.01 (MH)+. Accurate mass spec.: m/z 492.1978 [MH]+, Δ=3.3 ppm.

reactant | tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.28 mmol, 150 mg | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C25H29BrF3NO3
reactant | 2,3-difluoro-4-methoxyphenylboronic acid | 0.84 mmol, 139 mg | FC1=C(C=CC(=C1F)OC)B(O)O | C7H7BF2O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.03 mmol, 33 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(((2′,3′-Difluoro-4′-methoxy-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine | FC1=C(C=CC(=C1F)OC)C1=CC(=CC(=C1)C(F)(F)F)COCC1(CCNCC1)C1=CC=CC=C1 | C27H26F5NO2
